US05491144
a) 4,5-Bis(anilino)phthalic anhydride
A steady stream of argon is passed through a suspension of 23.4 g (67.18 mmol) of 4,5-bis(anilino)phthalic acid in 250 ml of toluene, and 19.0 ml (201.5 mmol, 3 eq) of acetic anhydride is added. The reaction mixture is heated to 60°-65° for 90 minutes with vigorous stirring. Thereaction mixture is cooled to 10° for 30 minutes, and the yellow to orange crystals are filtered off and washed with toluene/hexane to yield the title compound in the form of yellow crystals, FAB-MS: 331 [M+ +H].

reactant | 4,5-bis(anilino)phthalic acid | 67.18 mmol, 23.4 g | N(C1=CC=CC=C1)C=1C=C(C(C(=O)O)=CC1NC1=CC=CC=C1)C(=O)O | C20H16N2O4
reactant | acetic anhydride | 201.5 mmol, 19.0 ml, 3 eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Bis(anilino)phthalic anhydride | N(C1=CC=CC=C1)C=1C=C2C(C(=O)OC2=O)=CC1NC1=CC=CC=C1 | C20H14N2O3
